US09193693B2
Step 2. 3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-phenylquinoxaline-6-carboxylate (110 mg, 0.26 mmol, 1.00 equiv, 95%) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (55.7 mg, 1.39 mmol, 5.00 equiv) in water (1.5 mL) dropwise with stiffing. The resulting solution was stirred for overnight at 50° C. in an oil bath. The resulting solution was concentrated under vacuum. The residue was diluted with water. The pH value of the aqueous solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting solids were collected by filtration and washed with methanol. This resulted in 68.1 mg (66%) of 3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-phenylquinoxaline-6-carboxylate | 0.26 mmol, 110 mg, 1.00 equiv | C1N(CCC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C25H21N3O2
reactant | sodium hydroxide | 1.39 mmol, 55.7 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 3-(3,4-dihydroisoquinolin-2(1H)-yl)-2-phenylquinoxaline-6-carboxylic acid | C1N(CCC2=CC=CC=C12)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C24H19N3O2
